US07541374B2
840 mg of 3-nitro-1H-pyrole, 15 ml of tetrahydrofuran and 15 ml of formaldehyde 36% in water were mixed. 0.5 ml of tetrabutylammonium hydroxide 10% in water was added at room temperature, followed by stirring at room temperature for 30 minutes. The reaction mixture was poured into ice-water, and extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under reduced pressure to obtain 1-hydroxymethyl-3-nitro-1H-pyrole.

reactant | 3-nitro-1H-pyrole | 840 mg | [N+](=O)([O-])C1=CNC=C1 | C4H4N2O2
reactant | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
reactant | formaldehyde | 15 ml | C=O | CH2O
reactant | tetrabutylammonium hydroxide | 0.5 ml | [OH-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | O | H2O
product | 1-hydroxymethyl-3-nitro-1H-pyrole | OCN1C=C(C=C1)[N+](=O)[O-] | C5H6N2O3
